US06699887B2
A solution containing 2.75 g of (4-methoxybenzyl)hydrazine dihydrochloride in 50 ml of toluene was treated with 1.7 ml of triethylamine at rt and then stirred for 5 min. The mixture was then treated with 1.32 ml of methyl acetoacetate and heated at 100° C. for 15 min. The solvent was evaporated under reduced pressure and then the residue partitioned between dichloromethane/10% citric acid and extracted three times. Combined extracts were washed with brine, then dried over anhydrous magnesium sulphate, filtered and evaporated to give a yellow solid. The solid was purified by flash chromatography on silica gel using methanol/dichloromethane (1:49) for the elution to give 2.3 g of 2-(4-methoxybenzyl)-5-methyl-2H-pyrazol-3-ol as a white solid. Mass spectrum (ES) m/z 219 [M+H]+.

reactant | (4-methoxybenzyl)hydrazine dihydrochloride | 2.75 g | Cl.Cl.COC1=CC=C(CNN)C=C1
reactant | triethylamine | 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | methyl acetoacetate | 1.32 ml | C(CC(=O)C)(=O)OC | C5H8O3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-methoxybenzyl)-5-methyl-2H-pyrazol-3-ol | 2.3 g | COC1=CC=C(CN2N=C(C=C2O)C)C=C1 | C12H14N2O2
